US05236952
2.0 g of 3-(3,4-dimethoxy-5-nitrophenyl)-1-methylpyrazol-5-ol are suspended in 100 ml of methylene chloride. After cooling to -40° a solution of 4.9 ml of boron tribromide in 60 ml of methylene chloride is added dropwise thereto within 1 hour. The mixture is subsequently stirred at room temperature for 16 hours, cooled to -20° and treated within 30 minutes with 100 ml of ethanol. After stirring at room temperature for 1 hour, the solvent is removed by distillation in a water-jet vacuum at 40°. The residue is treated three times with a mixture of 100 ml of ethanol/toluene each time, with the solvent being distilled each time. The residue is recrystallized from ethanol. There is obtained 5-(5-hydroxy-1-methylpyrazol-3-yl)-3-nitropyrocatechol hydrobromide int he form of yellow crystals of m.p. >250°.

reactant | 3-(3,4-dimethoxy-5-nitrophenyl)-1-methylpyrazol-5-ol | 2.0 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NN(C(=C1)O)C | C12H13N3O5
reactant | boron tribromide | 4.9 ml | B(Br)(Br)Br | BBr3
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 5-(5-hydroxy-1-methylpyrazol-3-yl)-3-nitropyrocatechol hydrobromide | Br.OC1=CC(=NN1C)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | InChI=1S/C10H9N3O5.BrH/c1-12-9(15)4-6(11-12)5-2-7(13(17)18)10(16)8(14)3-5;/h2-4,14-16H,1H3;1H
